US06020342
4-(4-Methoxybenzyl)amino-6-methylthieno[3,2-c]pyridine
A mixture of 7.0 g of 4-chloro-6-methylthieno[3,2-c]pyridine and 28 ml of 4-methoxybenzylamine was stirred at 170° C. for 4 hours. After being cooled, the reaction mixture was diluted with 400 ml of chloroform, washed with water and saturated saline, dried over anhydrous magnesium sulfate. The drying agent was removed by filtration, and the solvent was removed under reduced pressure. The residue was purified by column chromatography on silica gel to give 10 g of the title compound as a yellow oily material.

reactant | 4-chloro-6-methylthieno[3,2-c]pyridine | 7.0 g | ClC1=NC(=CC2=C1C=CS2)C | C8H6ClNS
reactant | 4-methoxybenzylamine | 28 ml | COC1=CC=C(CN)C=C1 | C8H11NO
solvent | chloroform | 400 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-(4-Methoxybenzyl)amino-6-methylthieno[3,2-c]pyridine | 10 g | COC1=CC=C(CNC2=NC(=CC3=C2C=CS3)C)C=C1 | C16H16N2OS
